US08629150B2
A mixture of 4,6-dichloro-2-(methylthio)pyrimidine (1 g), ethyl 6-aminonicotinate (0.85 g) and NaHMDS (10.3 mL, 1M in THF) in THF (50 mL) was stirred at room temperature for 16 hours. The mixture was diluted with water and extracted with EtOAc (2×150 mL). The organic layers were combined, washed with brine (50 mL), dried over MgSO4 and concentrated to give ethyl 6-(6-chloro-2-(methylthio)pyrimidin-4-ylamino)nicotinate which was used as was.

reactant | 4,6-dichloro-2-(methylthio)pyrimidine | 1 g | ClC1=NC(=NC(=C1)Cl)SC | C5H4Cl2N2S
reactant | ethyl 6-aminonicotinate | 0.85 g | NC1=NC=C(C(=O)OCC)C=C1 | C8H10N2O2
reactant | NaHMDS | 1M, 10.3 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | ethyl 6-(6-chloro-2-(methylthio)pyrimidin-4-ylamino)nicotinate | ClC1=CC(=NC(=N1)SC)NC1=NC=C(C(=O)OCC)C=C1 | C13H13ClN4O2S
